US06982348B2
4-butyl-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)benzamide
To a solution of 4-n-butylbenzoic acid (153 mg, 0.86 mmol) in tetrahydrofuran (5 ml) were added oxalyl chloride (0.15 ml, 1.72 mmol) and N,N-dimethylformamide (0.01 ml), and the mixture was stirred at room temperature for 30 min. The reaction solution was evaporated under reduced pressure. To a solution of the residue in ethyl acetate (5 ml) were added (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (200 mg, 0.57 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml), and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1). Recrystallization from ethyl acetate-hexane gave the title compound (172 mg, 64%).

reactant | 4-n-butylbenzoic acid | 0.86 mmol, 153 mg | C(CCC)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | oxalyl chloride | 1.72 mmol, 0.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.57 mmol, 200 mg | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
product | 4-butyl-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)benzamide | 172 mg, 64% | C(CCC)C1=CC=C(C(=O)NC(C(O)C2=CC=C(C=C2)F)CC2=CC=C(C=C2)C(F)(F)F)C=C1 | C27H27F4NO2
